US04267184
(c) 4,5-Bis(4-methoxyphenyl)-2-(trifluoromethylthio)pyrrole
To a solution of 0.3 g (1 m mole) of 4,5-bis(4-methoxyphenyl)pyrrole-2-carboxylic acid in 5 ml ether/5 ml THF at -78° was added as a gas 0.3 g of trifluoromethanesulfenyl chloride. After 15 minutes, TLC showed no evidence of reaction, so a large excess of trifluoromethanesulfenyl chloride was added and the mixture was allowed to warm slowly to room temperature overnight, with a dry ice condenser attached for the first few hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by chromatography on 100 g Silic AR CC-7 to give after recrystallization from hexane 0.15 g (40%) of 4,5-bis(4-methoxyphenyl)-2-(trifluoromethylthio)pyrrole, identical to material obtained by Method A.

reactant | 4,5-bis(4-methoxyphenyl)pyrrole-2-carboxylic acid | 0.3 g | COC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)OC)C(=O)O | C19H17NO4
reactant | trifluoromethanesulfenyl chloride | 0.3 g | FC(SCl)(F)F | CClF3S
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4,5-Bis(4-methoxyphenyl)-2-(trifluoromethylthio)pyrrole | COC1=CC=C(C=C1)C=1C=C(NC1C1=CC=C(C=C1)OC)SC(F)(F)F | C19H16F3NO2S
